US08754103B2
In a heavy-wall pressure tube was added ethyl-5-bromo-2-(trifluoromethoxy)benzoate (0.3 mL) and methylamine (1.5 mL). The mixture was heated at 60 C for 2 hours. The reaction mixture was concentrated to afford A which was coupled to with 3-(trifluoromethyl)-[1,2,4]triazolo[4,3-a]pyridin-6-ylboronic acid using methods disclosed above to give to give N-methyl-2-(trifluoromethoxy)-5-[3-(trifluoromethyl)[1,2,4]triazolo[4,3-a]pyridin-6-yl]benzamide.

reactant | ethyl-5-bromo-2-(trifluoromethoxy)benzoate | 0.3 mL | C(C)OC(C1=C(C=CC(=C1)Br)OC(F)(F)F)=O | C10H8BrF3O3
reactant | methylamine | 1.5 mL | CN | CH5N
reactant | 3-(trifluoromethyl)-[1,2,4]triazolo[4,3-a]pyridin-6-ylboronic acid | FC(C1=NN=C2N1C=C(C=C2)B(O)O)(F)F | C7H5BF3N3O2
product | N-methyl-2-(trifluoromethoxy)-5-[3-(trifluoromethyl)[1,2,4]triazolo[4,3-a]pyridin-6-yl]benzamide | CNC(C1=C(C=CC(=C1)C=1C=CC=2N(C1)C(=NN2)C(F)(F)F)OC(F)(F)F)=O | C16H10F6N4O2
